US09359375B2
To a solution of benzyl 1-(methoxy(methyl)carbamoyl)cyclopropylcarbamate (1.34 g, 4.82 mmol) in THF (25 mL) at 0° C. was added LiAlH4 (366 mg, 9.64 mmol). After stirred at 0° C. for 30 min, it was poured to a solution of KHSO4 (1.9 g) in water (30 mL), extracted with EtOAc, organic layer was separated, washed with brine, dried and concentrated to give benzyl 1-formylcyclopropylcarbamate (820 mg).

reactant | benzyl 1-(methoxy(methyl)carbamoyl)cyclopropylcarbamate | 4.82 mmol, 1.34 g | CON(C(=O)C1(CC1)NC(OCC1=CC=CC=C1)=O)C | C14H18N2O4
reactant | LiAlH4 | 9.64 mmol, 366 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KHSO4 | 1.9 g | OS(=O)(=O)[O-].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | benzyl 1-formylcyclopropylcarbamate | 820 mg | C(=O)C1(CC1)NC(OCC1=CC=CC=C1)=O | C12H13NO3
